Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Erythromycin Base / Tetracycline Analogues / amoxicillin
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
-None

 
History of Present Illness:
Mr. ___ is a ___ male with HTN who
presented with ___ weeks of cough and 6 hours of chest pain
associated with post-tussive emesis and shortness of breath.

He reports that a few days after ___, he developed nausea,
chills, sweats, achiness, and heart palpitations. He has a
history of chronic palpitations, but these were more severe than
normal and were painful so he had his son bring him to the ED
(this was in ___. He was told he had influenza and was
started on Tamiflu, benzonatate, and an albuterol inhaler. He
felt better within a few days, but he had a dry cough that
persisted. He was in ___ and ___ for the following
week and a half and they were quite active - walking around the
cities, ___, ___, etc. He said with a few of the hills he
felt slightly short of breath so he used the inhaler with
improvement in his breathing.

They came back from the ___ on ___ evening (___). 
He
felt like his dry cough started to worsen again. He woke up
___ with shortness of breath and also noticed pain and
swelling in his right shoulder. He went to ___
where they did a RUE US which was negative for DVT. He was
discharged with an NSAIDs and plans for orthopedics follow up.
His arm is still swollen but the pain is improved since he
started taking naproxen. 

Early this morning (___) he woke up at 2am with substernal,
non-radiating chest tightness associated with shortness of
breath. The chest pain/shortness of breath lasted from 2am to
10am and resolved spontaneously. It was not associated with
activity. He had been watching TV and was sleeping before it
started. He has never had chest pain like this in the past - his
previous episodes of chest pain were always associated with
palpitations.

Today in the ED, he was getting ready to go home, thinking that
his cough and shortness of breath was likely due to a viral
illness. However, he got up from bed, took 3 steps and acutely
felt very short of breath and diaphoretic and called for help. 
He
felt better after Duonebs.

Throughout all of this (since ___), the dry cough has been
persistent and bothersome. He notes that he does tend to have
shortness of breath that improves with use of an albuterol MDI 
in
the winter. He thinks he may have some post-nasal drip. His GERD
has been well controlled. 
 
Past Medical History:
PAST MEDICAL/SURGICAL HISTORY:
- Hypertension
- Hyperlipidemia
- Pre-diabetes; most recent Hgb A1c 6.6% (___)
- Obesity
- Onychomycosis
- Possible cervical radiculopathy
- GERD
- H/o ___ tear
 
Social History:
___
Family History:
FAMILY HISTORY: 
MS - Mother
COPD - Father
CAD - maternal GF and paternal GF
Asthma - paternal GM
 
Physical Exam:
Discharge Exam:
VITALS: T 97.5, HR 116, BP 125/69, RR 20, SpO2 94% on RA
GENERAL: NAD, appears well, breathing room air comfortable
EYES: Anicteric, PERRL
ENT: MMM, OP clear
CV: Tachycardic, regular rhythm. No m/r/g. No JVD.
RESP: scant expiratory wheezing with good air movement 
throughout
anterior and posterior lung fields.
GI: Abdomen soft, obese, protuberant, non-tender to palpation. 
Bowel sounds present.
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
___ 06:15AM BLOOD WBC-18.4* RBC-4.92 Hgb-12.6* Hct-40.3 
MCV-82 MCH-25.6* MCHC-31.3* RDW-16.1* RDWSD-48.2* Plt ___
___ 06:15AM BLOOD WBC-18.4* RBC-4.92 Hgb-12.6* Hct-40.3 
MCV-82 MCH-25.6* MCHC-31.3* RDW-16.1* RDWSD-48.2* Plt ___
___ 05:53AM BLOOD Glucose-161* UreaN-13 Creat-0.8 Na-143 
K-4.7 Cl-105 HCO3-19* AnGap-19*
___ 12:56AM BLOOD cTropnT-<0.01
___ 12:17PM BLOOD cTropnT-<0.01
___ 06:25AM BLOOD cTropnT-<0.01
___ 03:42PM BLOOD ___ pO2-40* pCO2-42 pH-7.39 
calTCO2-26 Base XS-0

CXR ___: 
MPRESSION:
 
 
1. Mildly enlarged cardiomediastinal silhouette, which may 
represent
cardiomegaly or pericardial effusion.
2. No focal consolidation.

TTE ___
The left atrial volume index is normal. No atrial septal defect 
is seen by 2D or color Doppler. There is mild symmetric left 
ventricular hypertrophy with normal cavity size. Regional left 
ventricular wall motion is grossly normal (apical image quality 
poor with limited views of the basal segments, but nu 
multisegment abnormalities seen). Overall left ventricular 
systolic function is normal (LVEF>55%). Doppler parameters are 
most consistent with normal left ventricular diastolic function. 
Right ventricular chamber size and free wall motion are normal. 
The diameters of aorta at the sinus, ascending and arch levels 
are normal. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic stenosis or 
aortic regurgitation. The mitral valve appears structurally 
normal with trivial mitral regurgitation. The estimated 
pulmonary artery systolic pressure is normal. There is an 
anterior space which most likely represents a prominent fat pad. 


IMPRESSION: Normal global biventricular systolic function. No 
regional dysfunction seen in the context of poor apical image 
quality. No pathologic valvular flow. Normal left atrial size. 
Normal diastolic function. 
 
Brief Hospital Course:
Mr. ___ is a ___ male with
HTN, HLD, pre-DM, obesity, and GERD who presented with atypical
chest pain associated with acute shortness of breath in the
setting of possible influenza 2 weeks ago and persistent dry
cough likely new diagnosis of asthma with acute exacerbation 

ACUTE/ACTIVE PROBLEMS:

# Atypical chest pain
# Acute dyspnea at rest
# Acute Asthma with exacerbation 
His chest pain with associated shortness of breath is most
consistent with asthma exacerbation in the setting of recent
influenza/viral URI. He does not have a formal diagnosis of
asthma, but does use an albuterol inhaler for shortness of 
breath
in the ___. Troponin negative x 3 , Telemetry without events. 
His last exercise stress test
was in ___ (it was normal). D-dimer negative and recent RUE u/s
negative. CXR did not show evidence of volume overload or PNA. 
He was treated for moderate acute 
asthma exacerbation with nebulizers and steroids. He was 
discharged on oral steroids to complete a 5 day burst.
He had a TTE that did not she reduced heart function of WMA.
 - Continue prednisone 40mg daily 
 - will need outpatient PFTs
 - albuterol PRN
 - consider long term ICS post oral steroids 

# Leukocytosis- Stable. Likely from steroids. 
# Tachycardia- likely secondary to asthma exacerbation above and
steroids respectively. Will monitor for sepsis/fever. 
discussed above. Improved with treatment of Asthma. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Omeprazole 20 mg PO BID 
3. Atorvastatin 20 mg PO QPM 
4. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath 
5. Benzonatate 100 mg PO TID cough 

 
Discharge Medications:
1.  PredniSONE 40 mg PO DAILY 
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*6 Tablet 
Refills:*0 
2.  Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath  
3.  Atorvastatin 20 mg PO QPM  
4.  Benzonatate 100 mg PO TID cough  
5.  Lisinopril 10 mg PO DAILY  
6.  Omeprazole 20 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Acute Asthma Exacerbation
-Acute Dyspnea
-ACS r/o 

 
Discharge Condition:
Good
Alert and Oriented x3
Ambulatory without assistance 

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital with shortness of breath 
likely from an asthma flare. We treated you with nebulizers and 
steroids and you got better day by day. When you leave the 
hospital you should see Dr. ___ in clinic on ___ as 
planned. You should continue an additional 3 days of oral 
steroids upon discharge. You should have Pulmonary function 
tests (PFTS) to formally diagnose your likely asthma. You should 
continue to use your albuterol inhaler every 6 hours while you 
feel short of breath. Dr. ___ will go over your Echo results 
with  you. It was a pleasure taking care of you.
Best Regards,

___ Care Team 
 
Followup Instructions:
___